US08802659B2
6-bromo-2-(trans-4-tert-butylcyclohexyloxy)-1-iodonaphthalene
A solution of 2-bromo-6-(trans-4-tert-butylcyclohexyloxy)naphthalene (160.0 g, 444.4 mmol) in methylene chloride (2.5 L) was purged under an atmosphere of argon. N-iodosuccinimide (202.1 g, 888.8 mmol) and zirconium tetrachloride (20.4 g, 88.9 mmol) was added and the reaction was stirred at room temperature under an atmosphere of argon. The reaction was monitored by 1H NMR and showed complete conversion to product after 30 minutes. The mixture was then concentrated under reduced pressure to give ˜250 g crude as a brown solid. The crude material was purified by silica gel chromatography with hexanes to give 200 g of desired product as a brown solid (yield: 92.6%). EDI-MS: 487.1 (M+H)+.

reactant | 2-bromo-6-(trans-4-tert-butylcyclohexyloxy)naphthalene | 444.4 mmol, 160.0 g | BrC1=CC2=CC=C(C=C2C=C1)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C20H25BrO
reactant | N-iodosuccinimide | 888.8 mmol, 202.1 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | methylene chloride | 2.5 L | C(Cl)Cl | CH2Cl2
catalyst | zirconium tetrachloride | 88.9 mmol, 20.4 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
product | 6-bromo-2-(trans-4-tert-butylcyclohexyloxy)-1-iodonaphthalene | 200 g, yield: 92.6% | BrC=1C=C2C=CC(=C(C2=CC1)I)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C20H24BrIO
